US05338745
0.92 g of N-[3-(3,4-dihydroxyphenyl)-propionylpyrrolidine was dissolved in 10 ml of N,N-dimethylformamide and then 1.2 g of dibromomethane and 1.2 g of potassium carbonate anhydride and 100 mg of cupric oxide were added to the solution and the resulting solution was stirred at 130°-140° C. for 4 hours. After cooling, the solution was poured over iced water, extracted with ethyl acetate, washed with water and then dried with sodium sulfate anhydride. The solvent was removed by evaporation under reduced pressure and the residue was purified by chromatography on a silica gel column with a mixed solvent (chloroform:methanol=100:l) and thus 0.59 g of oily N-[3-(1.3-benzodioxol-5-yl)propionyl]pyrrolidine was obtained.

reactant | 3-(3,4-dihydroxyphenyl)-propionylpyrrolidine | OC=1C=C(C=CC1O)CCC(=O)N1CCCC1 | C13H17NO3
reactant | dibromomethane | 1.2 g | BrCBr | CH2Br2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[3-(1.3-benzodioxol-5-yl)propionyl]pyrrolidine | 0.59 g | O1COC2=C1C=CC(=C2)CCC(=O)N2CCCC2 | C14H17NO3
